data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_618405_0,[C:1](=[C:2]([H:7])[H:8])([O:3][H:6])[N:4]=[O:5]>>[C:1]1([O:3][H:6])=[N:4][O:5][C:2]1([H:7])[H:8],37.34377999998984
MR_620712_0,[C:1]([O:3][C:2](=[O:4])[H:5])([H:6])([H:7])[H:8]>>[C:1]([O:4][C:2](=[O:3])[H:5])([H:6])([H:7])[H:8],51.32887249999342
MR_234993_0,[C:1]1([H:8])([H:9])[C:2]([O:4][H:7])=[C:3]([H:10])[N:6]=[N:5]1>>[C:1]1([H:8])([H:9])[C:2]2([O:4][H:7])[C:3]([H:10])=[N:6][N:5]12,66.60787000004746
MR_546323_1,[C:1]([C:5]([C:6]([C:2]([H:18])([H:19])[H:20])/[C:4](=[C:7](/[C:3]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])[O:9][H:11])[O:10][H:12])([H:15])([H:16])[H:17]>>[C:1]([C:5]1([O:10][H:12])[C:6]([C:2]([H:18])([H:19])[H:20])=[C:4]([O:9][H:11])[C:7]1([C:3]([H:21])([H:22])[H:23])[N:8]([H:13])[H:14])([H:15])([H:16])[H:17],37.99637999998296
MR_591451_2,[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([O:7][H:8])[H:9])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[N:6]([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([N:6]([H:14])[H:15])[H:9])([N:4]([H:10])[H:11])([N:5]([H:12])[H:13])[O:7][H:8],70.99534999999193
MR_62548_0,[C:1]([C:2](/[C:4](=[C:3](\[O:5][H:7])[H:9])[H:10])=[N:6]/[H:8])([H:11])([H:12])[H:13]>>[C:1](/[C:2]([C:4]([C:3](=[O:5])[H:9])([H:7])[H:10])=[N:6]/[H:8])([H:11])([H:12])[H:13],60.37302999998744
MR_425063_2,[C:1](/[C:3]([N:2]([N:4]([H:9])[H:10])/[C:6](=[N:8]\[H:13])[H:14])=[C:7](\[N:5]([H:11])[H:12])[H:15])([H:16])([H:17])[H:18]>>[C:1](/[C:3](=[N:2]/[N:4]([H:9])[H:10])[C:7]([N:5]([H:11])[H:12])(/[C:6](=[N:8]\[H:13])[H:14])[H:15])([H:16])([H:17])[H:18],64.16752249996662
MR_475342_0,[C:1]([N:3]([N:2]([N:4]([H:8])[H:9])[C:5](=[O:6])[H:10])[H:7])([H:11])([H:12])[H:13]>>[C:1]([N:3]([O:6]/[C:5](=[N:2]/[N:4]([H:8])[H:9])[H:10])[H:7])([H:11])([H:12])[H:13],72.68897249999625
MR_553106_2,[C:1]1([N:4]([H:9])[H:10])([H:8])[O:6][C:3](=[C:5]([H:13])[H:14])[C:2]([H:11])([H:12])[O:7]1>>[C:1](=[N:4]\[H:9])(\[O:7][C:2]([C:3](=[C:5]([H:13])[H:14])[O:6][H:10])([H:11])[H:12])[H:8],47.56136249998178
MR_687259_1,[C:1]([C:3]([H:14])([H:15])[H:16])([N:6]([C:2]([C:4]([H:17])([H:18])[H:19])([C:7]([C:5]([H:20])([H:21])[H:22])=[O:9])[H:13])[H:11])([O:8][H:10])[H:12]>>[C:1]([N:6]([C:2]([C:4]([H:17])([H:18])[H:19])([C:7]([C:3]([H:14])([H:15])[H:16])([C:5]([H:20])([H:21])[H:22])[O:9][H:10])[H:13])[H:11])(=[O:8])[H:12],64.47750750000438
MR_473731_2,[C:1]([C:2]([O:5][H:9])([N:6]=[C:3]([H:11])[H:12])[O:7][H:8])(=[O:4])[H:10]>>[C:1]([C:2]([O:5][H:9])=[O:7])([O:4][H:8])([N:6]=[C:3]([H:11])[H:12])[H:10],43.79887250002881
MR_283164_2,[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:3](/[N:4]([H:9])[H:10])[C:7]([N:5]([H:11])[H:12])([N:6]([H:13])[H:14])[H:15])[H:8]>>[C:1]([C:2]([H:16])([H:17])[H:18])(/[C:3]([N:4]([H:9])[H:10])=[C:7](/[N:6]([H:13])[H:14])[H:15])([N:5]([H:11])[H:12])[H:8],63.39193249996299
MR_294611_0,[C:1]([C:2]([H:14])([H:15])[H:16])([N:3](/[C:4]([O:6][H:8])=[N:7]/[N:5]([H:10])[H:11])[H:9])([H:12])[H:13]>>[C:1]([C:2]([H:14])([H:15])[H:16])([N:7](/[C:4](=[N:3]/[H:9])[O:6][H:8])[N:5]([H:10])[H:11])([H:12])[H:13],62.30949500002069
MR_376933_2,[C:1](=[C:2]([N:4]([H:11])[H:12])\[C:5](=[N:7]\[H:13])[H:14])(\[N:3]([H:9])[H:10])[N:6]=[O:8]>>[C:1](=[C:2](/[N:4]([H:11])[H:12])[N:6]=[O:8])([N:3]([H:9])[H:10])/[C:5](=[N:7]/[H:13])[H:14],73.2298775000217
MR_615611_1,[C:1]([C:5]([N:4](/[C:6]([C:2]([H:18])([H:19])[H:20])=[C:7](/[C:3]([H:21])([H:22])[H:23])[N:9]([H:13])[H:14])[N:8]([H:11])[H:12])=[O:10])([H:15])([H:16])[H:17]>>[C:1]([C:5]([C@@:7]([C:3]([H:21])([H:22])[H:23])(/[C:6]([C:2]([H:18])([H:19])[H:20])=[N:4]\[N:8]([H:11])[H:12])[N:9]([H:13])[H:14])=[O:10])([H:15])([H:16])[H:17],58.37883499999293
MR_235798_1,[C:1]([C:2]([H:14])([H:15])[H:16])([C:4](=[O:8])[H:12])([O:6][H:9])/[N:7]=[C:5](\[N:3]([H:10])[H:11])[H:13]>>[C:1](\[C:2]([H:14])([H:15])[H:16])([O:6][H:9])=[N:7]\[C:5]([N:3]([H:10])[H:11])([C:4](=[O:8])[H:12])[H:13],73.22172000000663
MR_352588_1,[N:1]1([H:10])[C:2](=[C:6]([H:13])[H:14])[C:5]([C:8]([C:4](=[O:9])[H:11])([H:17])[H:18])([H:12])[C:3]1=[C:7]([H:15])[H:16]>>[N:1]([C:2]([C:4](=[O:9])[H:11])=[C:6]([H:13])[H:14])([C:3]([C:5](=[C:8]([H:17])[H:18])[H:12])=[C:7]([H:15])[H:16])[H:10],69.16869749996678
MR_262562_0,[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:4][O:5][H:8])=[O:7])([O:6][H:9])[H:10]>>[C@@:1]([C:2]([H:11])([H:12])[H:13])([C:3](=[O:7])[H:10])([O:4][O:5][H:8])[O:6][H:9],53.88028750004352
MR_334281_0,[C@:1]([C:2]([O:6][H:9])=[O:7])([O:4][N:3]([H:11])[H:12])([O:5][H:8])[H:10]>>[C@:1]1([O:5][H:8])([H:10])[C@:2]([O:4][N:3]([H:11])[H:12])([O:6][H:9])[O:7]1,61.66003249998397
MR_254884_1,[C:1]([C:2]([C:5]([C:4]([H:18])([H:19])[H:20])=[O:8])([H:14])[H:15])([C:3]([N:7]([H:12])[H:13])([H:16])[H:17])([N:6]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([C:5]([C:3]([N:7]([H:12])[H:13])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])[O:8][H:11])([H:14])[H:15])(=[N:6]/[H:10])[H:9],67.32321999998916
